US08044041B2
4-Chloro-6-[2-(2-morpholin-4-yl-ethoxy)-benzylamino]-2H-phthalazin-1-one
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (70 mg, 0.27 mmol), 2-(2-morpholin-4-yl-ethoxy)-benzylamine (83 mg, 0.35 mmol), Pd2(dba)3 (25 mg, 0.027 mmol), rac-BINAP (51 mg, 0.081 mmol) and NaOt-Bu (76 mg, 0.81 mmol) in DMA (6 mL) was heated at 80° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc (25 mL) and washed with water (25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. Chromatography on silica (EtOAc/hexanes) yielded the title compound. 4-Chloro-6-[2-(2-morpholin-4-yl-ethoxy)-benzylamino]-2H-phthalazin-1-one: 28 mg (25.0%): m/z (M+H)=415. 1H-NMR (DMSO-d6) δ: 12.33 (s, 1H), 7.91 (d, 1H), 7.45 (m, 1H), 7.24 (m, 2H), 7.13 (m, 1H), 7.04 (m, 1H), 6.90 (m, 1H), 6.79 (s, 1H), 4.36 (d, 2H), 4.15 (t, 2H), 3.51 (t, 4H), 2.72 (t, 2H), 2.45 (m, 4H).

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.27 mmol, 70 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-(2-morpholin-4-yl-ethoxy)-benzylamine | 0.35 mmol, 83 mg | N1(CCOCC1)CCOC1=C(CN)C=CC=C1 | C13H20N2O2
reactant | rac-BINAP | 0.081 mmol, 51 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 0.81 mmol, 76 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.027 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Chloro-6-[2-(2-morpholin-4-yl-ethoxy)-benzylamino]-2H-phthalazin-1-one | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)OCCN1CCOCC1)=O | C21H23ClN4O3
